US04677107
Preparation of 2-(1-piperazinyl)-4-phenylquinoline:
A solution of 2-chloro-4-phenylquinoline (4.0 g) and anhydrous piperazine (8.0 g) in toluene (4 ml) is heated under reflux for 5 hours. To the reaction mixture is added water and the resulting mixture is extracted with ethyl acetate. The extracts are dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on silica gel (40 g) using chloroform as an eluent. Fractions containing the title compound are pooled and concentrated to give the title compound (4.4 g), m.p. 133°-134° C.

reactant | 2-chloro-4-phenylquinoline | 4.0 g | ClC1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C15H10ClN
reactant | piperazine | 8.0 g | N1CCNCC1 | C4H10N2
reactant | water | O | H2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-piperazinyl)-4-phenylquinoline | 4.4 g | N1(CCNCC1)C1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C19H19N3
